US08044068B2
To a mixture of 2-chloro-4-(4-methyl-[1,4]-diazepan-1-yl)quinazoline (0.10 g), Pd2(dba)3 (0.017 g), (±)-BINAP (0.034 g), (S)-1-(3-aminopyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone mono hydrochloride (0.13 g), and 1,4-dioxane (2 mL) was added sodium t-butoxide (0.10 g) under nitrogen atmosphere, and the mixture was stirred at 80° C. for 3 h. The reaction mixture was diluted with ethyl acetate and water, then the interlayer was removed by Celite filtration, and the organic layer was washed with saturated brine. The organic layer was dried with anhydrous magnesium sulfate, the desiccant was removed by filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (NH silica gel, ethyl acetate−ethyl acetate/methanol=10:1) to obtain colorless amorphous 1-((S)-3-(4-(4-methyl-[1,4]-diazepan-1-yl)quinazolin-2-ylamino)pyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone (0.12 g).

reactant | 2-chloro-4-(4-methyl-[1,4]-diazepan-1-yl)quinazoline | 0.10 g | ClC1=NC2=CC=CC=C2C(=N1)N1CCN(CCC1)C | C14H17ClN4
reactant | (S)-1-(3-aminopyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone mono hydrochloride | 0.13 g | Cl.N[C@@H]1CN(CC1)C(CC1=CC=C(C=C1)OC(F)(F)F)=O
reactant | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
reactant | sodium t-butoxide | 0.10 g | CC(C)([O-])C.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | Pd2(dba)3 | 0.017 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-((S)-3-(4-(4-methyl-[1,4]-diazepan-1-yl)quinazolin-2-ylamino)pyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone | 0.12 g | CN1CCN(CCC1)C1=NC(=NC2=CC=CC=C12)N[C@@H]1CN(CC1)C(CC1=CC=C(C=C1)OC(F)(F)F)=O | C27H31F3N6O2
